US04323680
To a solution of 1.8 g (0.01 mol) of 4-chloro-6-methylquinazoline in 50 ml of benzene were added 1.0 g (0.01 mol) of triethylamine and 1.7 g (0.01 mol) of 2-(0-methoxyphenoxy)ethylamine, and the mixture was heated, with stirring, at 60°~70° C. for 5 hours. After completion of the reaction, the benzene was evaporated under reduced pressure and the residue was dissolved in chloroform, washed with water and dried over anhydrous sodium sulfate. The chloroform was evaporated under reduced pressure to leave crystals, which were recrystallized from ethanol, giving 0.9 g of 6-methyl-4-[2-(2-methoxyphenoxy)ethyl]-aminoquinazoline in the form of colorless plates.

reactant | 4-chloro-6-methylquinazoline | 0.01 mol, 1.8 g | ClC1=NC=NC2=CC=C(C=C12)C | C9H7ClN2
reactant | triethylamine | 0.01 mol, 1.0 g | C(C)N(CC)CC | C6H15N
reactant | 2-(0-methoxyphenoxy)ethylamine | 0.01 mol, 1.7 g | COC1=C(OCCN)C=CC=C1 | C9H13NO2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 6-methyl-4-[2-(2-methoxyphenoxy)ethyl]-aminoquinazoline | 0.9 g | CC=1C=C2C(=NC(=NC2=CC1)N)CCOC1=C(C=CC=C1)OC | C18H19N3O2
